US07834009B2
a) 2-Acetyl-2,5-dimethyl-hex-4-enoic Acid Ethyl Ester
A solution of 2-methyl-3-oxo-butyric acid ethyl ester (3.0 g, 0.0208 mol) in anhydrous N,N-dimethylformamide (80 mL) was cooled to 0° C. and treated with a 60% oil dispersion of sodium hydride (1.0 g, 0.0416 mol). The cooling bath was removed and the reaction mixture was stirred for 10 min. 4-Bromo-2-methyl-2-butene (3.73 g, 0.025 mol) was added and the reaction mixture was stirred for 16 h. The reaction mixture was poured into a mixture of ice and 4.0 M aqueous ammonium chloride solution. The mixture was extracted with ethyl acetate, dried over magnesium sulfate, filtered and concentrated in vacuo. The crude yellow oil was purified by flash column chromatography (ISCO RediSep column, 0 to 15% ethyl acetate in hexanes) to afford the desired product, 2-Acetyl-2,5-dimethyl-hex-4-enoic acid ethyl ester (3.45 g, 78%) as an oil. 1H NMR (400 MHz, CDCl3) δ: 1.26 (3H, t, J=7.3 Hz), 1.31 (3H, s), 1.61 (3H, s), 1.69 (3H, s), 2.14 (3H, s), 2.49 (1H, dd, J1=14.8 Hz, J2=7.7 Hz), 2.58 (1H, dd, J1=14.9 Hz, J2=7.5 Hz), 4.18 (2H, q, J=7.3 Hz), 4.92-4.96 (1H, m).

reactant | 2-methyl-3-oxo-butyric acid ethyl ester | 0.0208 mol, 3.0 g | C(C)OC(C(C(C)=O)C)=O | C7H12O3
reactant | sodium hydride | 0.0416 mol, 1.0 g | [H-].[Na+]
reactant | 4-Bromo-2-methyl-2-butene | 0.025 mol, 3.73 g | BrCC=C(C)C | C5H9Br
reactant | ammonium chloride | 4.0 M | [Cl-].[NH4+]
reactant | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | 2-Acetyl-2,5-dimethyl-hex-4-enoic acid ethyl ester | 3.45 g, 78% | C(C)OC(C(CC=C(C)C)(C)C(C)=O)=O | C12H20O3
